US06977262B2
5-Cyano-4-(2,2-difluoro-1,3-benzodioxol-4-yl)-4,7-dihydro-6-(piperidin-4-yl)-2H-pyrazolo[3,4-b]pyridine 2 Hydrochloride
The title compound was prepared from ethyl nipecotate, 2,2-difluoro-1,3-benzodioxol-4-aldehyde and 3-aminopyrazole in the same manner as in Examples 1001 and 1002.

reactant | ethyl nipecotate | N1CC(C(=O)OCC)CCC1 | C8H15NO2
reactant | 2,2-difluoro-1,3-benzodioxol-4-aldehyde | FC1(OC2=C(O1)C=CC=C2C=O)F | C8H4F2O3
reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
product | 5-Cyano-4-(2,2-difluoro-1,3-benzodioxol-4-yl)-4,7-dihydro-6-(piperidin-4-yl)-2H-pyrazolo[3,4-b]pyridine | C(#N)C=1C(C=2C(NC1C1CCNCC1)=NNC2)C2=CC=CC=1OC(OC12)(F)F | C19H17F2N5O2
